US06660744B1
A mixture of cis-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.970 g, 2.20 mmol, 1 equiv), 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]benzaldehyde (0.842 g, 2.60 mmol, 1.2 equiv), tetrakis(triphenylphosphine)palladium (0.186 g, 0.180 mmol, 0.08 equiv), DME (9 mL), and sodium carbonate monohydrate (0.655 g, 5.30 mmol, 2.4 equiv) in water (7 mL) was heated at 85° C. for 7 h then allowed to cool to ambient temperature. Saturated aqueous sodium bicarbonate solution (50 mL) was added, and the solution was extracted with EtOAc (25 mL). The organic extract was dried over MgSO4, filtered, and concentrated to afford a light brown solid. Trituration from Et2O (35 mL) afforded cis-2-(3-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenoxy)benzaldehyde as an off-white solid (0.830 g, 1.62 mmol): 1H NMR (d6 DMSO, 400 MHz): δ H 10.42 (1H, s), 8.24 (1H, s), 7.89 (1H, d, J=7.7 Hz), 7.69-7.71 (3H, m), 7.30-7.36 (1H, m), 7.29 (2H, d, J=6.3 Hz), 7.16 (1H, d, J=8.2 Hz), 4.79-4.81 (1H, m), 2.18-2.55 (11H, m), 2.17 (3H, s), 2.05-2.09 (2H, m), 1.56-1.71 (4H, m); RP-HPLC (Delta Pak C18, 5 μm, 300 Å, 15 cm; 5%-85% acetonitrile-0.1M ammonium acetate over 20 min, 1 mL/min) Rt 12.56 min. MS: MH+ 512.

reactant | cis-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 2.20 mmol, 0.970 g, 1 equiv | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]benzaldehyde | 2.60 mmol, 0.842 g, 1.2 equiv | CC1(OB(OC1(C)C)C1=CC=C(OC2=C(C=O)C=CC=C2)C=C1)C | C19H21BO4
reactant | sodium carbonate monohydrate | 5.30 mmol, 0.655 g, 2.4 equiv | O.C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | water | 7 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.180 mmol, 0.186 g, 0.08 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Et2O | 35 mL | CCOCC | C4H10O
solvent | DME | 9 mL | COCCOC | C4H10O2
product | cis-2-(3-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenoxy)benzaldehyde | 1.62 mmol, 0.830 g | NC1=C2C(=NC=N1)N(N=C2C=2C=C(OC1=C(C=O)C=CC=C1)C=CC2)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C29H33N7O2
